US05849911
25h) 1-{4-[2-(1-Methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-phenyl}4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-6-phenyl-2-azahexane hydrochloride
Under a nitrogen atmosphere, 1.37 g (1.84 mmol) of 1-{4-[2-(1-methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-phenyl}-4(S) -hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-6-phenyl-2-azahexane are stirred in 64 ml of acetonitrile and 64 ml of aqueous 2N HCl at room temperature for 6 days. The reaction mixture is filtered, and the filtrate is concentrated by evaporation under a high vacuum at room temperature and is finally lyophilised from dioxane to yield the title compound: HPLC20-100 : tret =14.2; 1 H-NMR (CD3OD) inter alia δ 8.10 (d, J=8, 2Harom), 7.8 (m, 1Harom), 7.53 (m, 2Harom), 7.32 (m, 3Harom), 7.17 (m, 6Harom), 2.23 (s, 2 H3Ctetrazole-protecting group).

reactant | 1-{4-[2-(1-methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-phenyl}-4(S) -hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-6-phenyl-2-azahexane | 1.84 mmol, 1.37 g | CC(C)(C1=CC=CC=C1)N1N=C(N=N1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)(C)C)=O)O)NC(=O)OC(C)(C)C | C40H54N8O6
reactant | HCl | 2N | Cl | ClH
solvent | acetonitrile | 64 ml | C(C)#N | C2H3N
product | 1-{4-[2-(1-Methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-phenyl}4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-6-phenyl-2-azahexane hydrochloride | Cl.CC(C)(C1=CC=CC=C1)N1N=C(N=N1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)(C)C)=O)O)N | InChI=1S/C35H46N8O4.ClH/c1-34(2,3)30(38-33(46)47-6)32(45)37-28(21-24-13-9-7-10-14-24)29(44)23-42(36)22-25-17-19-26(20-18-25)31-39-41-43(40-31)35(4,5)27-15-11-8-12-16-27;/h7-20,28-30,44H,21-23,36H2,1-6H3,(H,37,45)(H,38,46);1H/t28-,29-,30+;/m0./s1
